US05624937
1-(4--Nitrophenylthio)naphthalene (39.0 moles, 11.0 g) was dissolved in 200 ml ethyl acetate and hydrogenated over 8 g of 5% Pd/C at 40 psi for 1 hr at room temperature. The solution was filtered through celite and the solvent removed to yield 1-(4-aminophenylthio)naphthalene 9.0 g, 92%. Mass spec (FD) 251. Calculated for C15H17NS: C, 76.46; H, 5.21, N, 5.57 Found: C, 76.71; H, 5.39; N, 5.47.

reactant | 1-(4--Nitrophenylthio)naphthalene | 39.0 moles, 11.0 g | [N+](=O)([O-])C1=CC=C(C=C1)SC1=CC=CC2=CC=CC=C12 | C16H11NO2S
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 8 g | [Pd] | Pd
product | 1-(4-aminophenylthio)naphthalene | 9.0 g, 92% | NC1=CC=C(C=C1)SC1=CC=CC2=CC=CC=C12 | C16H13NS
